US03992389
1-[2-(1-Naphthyl)ethyl]-4-benzamidopiperidine
1-(2-Bromoethyl)naphthalene (3.0 g.) was added to a solution of 4-benzamidopiperidine (3.0 g.), di-isopropylamine (4 ml.) and a trace of sodium iodide in dimethylformamide (10 ml.). The mixture was heated at 70° C overnight, then poured into water and extracted with methylene chloride. The washed and dried extracts were evaporated and the residue was recrystallised from benzene to give the title compound (3.0 g.), m.p. 160°-162° C. (Found: C, 80.5; H, 7.4; N, 7.5 C24H26N2O requires C, 80.4; H, 7.3; N, 7.8%).

reactant | 1-(2-Bromoethyl)naphthalene | 3.0 g | BrCCC1=CC=CC2=CC=CC=C12 | C12H11Br
reactant | 4-benzamidopiperidine | 3.0 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | di-isopropylamine | 4 ml | C(C)(C)NC(C)C | C6H15N
reactant | sodium iodide | [I-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[2-(1-Naphthyl)ethyl]-4-benzamidopiperidine | 3.0 g | C1(=CC=CC2=CC=CC=C12)CCN1CCC(CC1)NC(C1=CC=CC=C1)=O | C24H26N2O
